US04017620
A mixture of 3.50 g. of ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate, 3.36 g. of hexamethylenetetramine and 80 ml. of ethanol is refluxed for 15 hours, followed by concentration. Then, addition of water to the residue gives ethyl 6-(2-chlorophenyl)-8-ethyl-4 H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]-diazepine-2-carboxylate as crystals. Recrystallization from ethanol yields pale yellow prisms melting at 147.5° to 148.5° C.

reactant | ethyl 1-[3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2N=C(N=C2CCl)C(=O)OCC)C=CC=C1 | C19H17Cl2N3O3S
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-(2-chlorophenyl)-8-ethyl-4 H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]-diazepine-2-carboxylate | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)N=C(N2)C(=O)OCC | C19H17ClN4O2S
